US07786132B2
(i) 1-(Thiophen-2-ylsulfonyl)piperidine
Thiophene-2-sulfonyl chloride (10 g, 54 mmol) was dissolved in dichloromethane (15 mL) and added dropwise to a round-bottom flask containing a solution of piperidine (10.6 mL, 108 mmol) and diisopropylethyilamine (18.8 mL, 108 mmol) in dichloromethane at 0° C. The reaction was stirred at 0° C. for 15 min and then allowed to warm up to room temperature. After 2 h, the reaction was washed successively with a saturated solution of sodium bicarbonate, water, 1 N HCl and a saturated solution of sodium chloride. The organic layer was dried with sodium sulfate, concentrated and placed on a vacuum line to give an off-white solid (11.98 g). MS (M+H)+ 232.

reactant | Thiophene-2-sulfonyl chloride | 54 mmol, 10 g | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
reactant | piperidine | 108 mmol, 10.6 mL | N1CCCCC1 | C5H11N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 1-(Thiophen-2-ylsulfonyl)piperidine | 11.98 g | S1C(=CC=C1)S(=O)(=O)N1CCCCC1 | C9H13NO2S2
